US05624943
Under the conditions of example 1 D, 500 mg of 3-{3-hydroxy-6-[2-(4-methoxycarbonylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester is reacted with 354 mg of 1-bromo-(3RS)-3,7-dimethyl-6-octene, worked up, and the crude product is chromatographed on silica gel with hexane/0-10% ethyl acetate. 522 mg of 3-{6-[2-(4-methoxycarbonylphenyl)-ethinyl]-3-[(3RS)-3,7-dimethyl-6-octenyloxy]-2-pyridyl}-propionic acid methyl ester is obtained as yellow oil.

reactant | 3-{3-hydroxy-6-[2-(4-methoxycarbonylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester | 500 mg | COC(CCC1=NC(=CC=C1O)C#CC1=CC=C(C=C1)C(=O)OC)=O | C19H17NO5
reactant | 1-bromo-(3RS)-3,7-dimethyl-6-octene | 354 mg | BrCCC(CCC=C(C)C)C | C10H19Br
product | 3-{6-[2-(4-methoxycarbonylphenyl)-ethinyl]-3-[(3RS)-3,7-dimethyl-6-octenyloxy]-2-pyridyl}-propionic acid methyl ester | 522 mg | COC(CCC1=NC(=CC=C1OCCC(CCC=C(C)C)C)C#CC1=CC=C(C=C1)C(=O)OC)=O | C29H35NO5
